US05650422
A mixture of 2-(bromomethyl) saccharin (3 g, 10.8 mmol) and the sodium salt of 5-mercapto-1-methyl-1H-tetrazole (1.49 g, 10.8 mmol) was heated under reflux in methyl ethyl ketone (75 ml) for 2 hours. The reaction mixture was cooled, poured into dilute sodium bicarbonate/ice solution and extracted with MDC (2x's). The combined organic extracts were dried (Na2SO4) and freed of solvent under vacuum. The crude product was chromatographed (silica gel-95:5 CH2Cl2 :ether), and the resultant oil was crystallized from hot isopropanol to afford 2.7 g (80%) of 2-(1-methyl-1H-tetrazol-5-ylthiomethyl)saccharin as a white solid, mp 106°-110° C. 1H nmr (90 MHz, CDCl3):5.55 (2H, s). FDMS: m/e 311 (M+).

reactant | 2-(bromomethyl) saccharin | 10.8 mmol, 3 g | BrCN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H6BrNO3S
reactant | sodium | [Na] | Na
reactant | 5-mercapto-1-methyl-1H-tetrazole | 10.8 mmol, 1.49 g | SC1=NN=NN1C | C2H4N4S
reactant | methyl ethyl ketone | 75 ml | C(C)C(=O)C | C4H8O
product | 2-(1-methyl-1H-tetrazol-5-ylthiomethyl)saccharin | 2.7 g, 80% | CC(N1S(=O)(=O)C2=CC=CC=C2C1=O)SC1=NN=NN1 | C10H9N5O3S2
